US04203988
A. 2-Methylisopropylaminoethyl Chloride Hydrochloride
Thionyl chloride (57 ml. 0.775 M) is added with stirring and cooling (below 20°) to a solution of 2-methylisopropylaminoethanol (75 g., 0.64 M) dissolved in chloroform (300 ml.). The temperature is raised to 45° at which point gas evolution becomes evident and is maintained at 45°-55° for 11/2 hour. The reaction mixture is refluxed for 2 hours. Then the mixture is cooled to 25° and ethanol (25 ml.) is added with stirring and the mixture is concentrated under vacuum. The residue is taken up in isopropanol (50 ml.) and ether (350 ml.) is added. The product is filtered and on drying, weights 107 g., melting point 114°-117°.

reactant | Thionyl chloride | 0.775 M, 57 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methylisopropylaminoethanol | 0.64 M, 75 g | CCC(O)NC(C)C | C6H15NO
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Methylisopropylaminoethyl Chloride Hydrochloride | Cl.CC(CCl)NC(C)C | InChI=1S/C6H14ClN.ClH/c1-5(2)8-6(3)4-7;/h5-6,8H,4H2,1-3H3;1H
